US05658907
B) Preparation of 3-Ethyl-2-aminopyridine
2-t-Butoxycarbonylamino-3-ethylpyridine (4.9 g, 19.8 mmol) was dissolved in 90 ml of 3N HCl/Acetic acid and stirred for two hours. The solution was neutralized with 2N NaOH to pH 7 and then extracted with ethyl acetate (2×400 ml). The organics were dried over magnesium sulfate and concentrated giving 2.3 g (95%) of a yellowish solid. This solid was used in the next reaction without further purification.

reactant | 2-t-Butoxycarbonylamino-3-ethylpyridine | 19.8 mmol, 4.9 g | C(C)(C)(C)OC(=O)NC1=NC=CC=C1CC | C12H18N2O2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | HCl Acetic acid | 3N, 90 ml | Cl.C(C)(=O)O
product | 3-Ethyl-2-aminopyridine | 2.3 g, 95% | C(C)C=1C(=NC=CC1)N | C7H10N2
